US09102591B2
A mixture of 1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone (350 mg, 1.38 mmol), NH2OH.HCl (143.7 mg, 2.07 mmol) and NaOH (165.6 mg, 4.14 mmol) in EtOH/H2O (16 mL, 1:1) was heated to 80° C. overnight. The EtOH was removed. The residue was extracted with EtOAc (2×20 mL). The organic layer was dried over Na2SO4 and concentrated to give (Z)-1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone oxime (320 mg), which was used for the next step directly.

reactant | 1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone | 1.38 mmol, 350 mg | FC1(CCC(CC1)(C=1C=NC(=NC1)C)C(C)=O)F | C13H16F2N2O
reactant | NH2OH.HCl | 2.07 mmol, 143.7 mg | NO.Cl
reactant | NaOH | 4.14 mmol, 165.6 mg | [OH-].[Na+]
solvent | EtOH H2O | 16 mL | CCO.O
product | (Z)-1-(4,4-difluoro-1-(2-methylpyrimidin-5-yl)cyclohexyl)ethanone oxime | 320 mg | FC1(CCC(CC1)(C=1C=NC(=NC1)C)\C(\C)=N/O)F | C13H17F2N3O
